US05387684
Ethanol (1.5 ml), ion-exchanged water (0.3 ml), and potassium hydroxide (42 mg) were added to 2-butyl-4-chloro-1-[2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-5-(hydroxymethyl)-1H-imidazole (116 mg, 0.248 mmol) as obtained in Example 3, and the mixture was stirred at room temperature for 1.5 hours. The mixture was concentrated in an evaporator, and partitioned by ion-exchanged water (2.5 ml) and diethyl ether (5 ml). The water layer was separated and conc. hydrochloric acid was dropwise added thereto to adjust its pH to 2. The resultant solid was filtered off and washed three times with ion-exchanged water (1 ml). The solid was dried in vacuo at 37° C. overnight to give 58 mg of 2-butyl-4-chloro-1-[2-(2-carboxyphenyl)-2H-indazol-5-yl]methyl-5-(hydroxymethyl)-1H-imidazole.

reactant | Ethanol | 1.5 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 42 mg | [OH-].[K+]
reactant | 2-butyl-4-chloro-1-[2-(2-ethoxycarbonylphenyl)-2H-indazol-5-yl]methyl-5-(hydroxymethyl)-1H-imidazole | 0.248 mmol, 116 mg | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC2=CN(N=C2C=C1)C1=C(C=CC=C1)C(=O)OCC | C25H27ClN4O3
solvent | water | 0.3 ml | O | H2O
product | 2-butyl-4-chloro-1-[2-(2-carboxyphenyl)-2H-indazol-5-yl]methyl-5-(hydroxymethyl)-1H-imidazole | 58 mg | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC2=CN(N=C2C=C1)C1=C(C=CC=C1)C(=O)O | C23H23ClN4O3
